### ISSUE TITLE
Unsoundness with self-referential indices in inductives

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#2125]
```lean
open Classical

noncomputable def f (α : Type) : Bool :=
  Nonempty α

inductive C : Bool → Type
  | c : C (f (C false))

theorem unsound : False :=
  if h : Nonempty (C false) then by
    let ⟨c⟩ := h
    generalize hf : false = b at c
    let ⟨⟩ := c
    simp [f, h] at hf
  else
    have : f (C false) = false := by simp [f, h]
    h ⟨this ▸ .c⟩
```

Thanks to @nikswamy for the pointer!
